### PR TITLE
[Merged by Bors] - feat: basic results about the differentiability of the norm

### PR DESCRIPTION
**Pull request by EtienneC30**
Provide basic results about the differentiability of the norm in a real vector space.
Give the links between differentiability as `x` and `t • x`.
Prove that if the norm is differentiable at `x` then `fderiv ℝ (‖·‖) x x = ‖x‖` and `‖fderiv ℝ (‖·‖) x‖ = 1`.

---

- [x] depends on: #17149

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Norm.lean [hunk 1]
```diff
@@ -0,0 +1,193 @@
...
+
+theorem fderiv_norm_smul_neg (ht : t < 0) :
+    fderiv ℝ (‖·‖) (t • x) = -fderiv ℝ (‖·‖) x := by
+  simp [fderiv_norm_smul, ht]
+
+theorem norm_fderiv_norm [Nontrivial E] (h : DifferentiableAt ℝ (‖·‖) x) :
+    ‖fderiv ℝ (‖·‖) x‖ = 1 := by
+  have : x ≠ 0 := fun hx ↦ not_differentiableAt_norm_zero E (hx ▸ h)
+  apply le_antisymm
+  · rw [show (1 : ℝ) = ↑(1 : ℝ≥0) by rfl]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Calculus/FDeriv/Norm.lean:181]:
```suggestion
  · rw [← NNReal.coe_one]
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Analysis/Calculus/FDeriv/Norm.lean (hunk 1 above)
Comment (EtienneC30) [reply Mathlib/Analysis/Calculus/FDeriv/Norm.lean]: Thanks for that!

File: Mathlib/Analysis/Calculus/FDeriv/Norm.lean [hunk 2]
```diff
@@ -0,0 +1,200 @@
...
+  ∀ᵐ x ∂μ, DifferentiableAt ℝ (‖·‖) x := lipschitzWith_one_norm.ae_differentiableAt
+
+/-- In a real finite-dimensional normed vector space,
+  the set of points where the norm is differentiable at is dense. -/
+theorem dense_differentiableAt_norm [FiniteDimensional ℝ E] :
+    Dense {x : E | DifferentiableAt ℝ (‖·‖) x} :=
+  let _ : MeasurableSpace E := borel E
+  have _ : BorelSpace E := ⟨rfl⟩
+  let w := Basis.ofVectorSpace ℝ E
+  MeasureTheory.Measure.dense_of_ae (ae_differentiableAt_norm (μ := w.addHaar))
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Norm.lean:200]: Just because of these two lemmas, you have heavy imports in your file (measure theory, Rademacher). To keep more reasonable imports, what do you think of moving these to the Rademacher files, as illustrations of the Rademacher theorem in a concrete case?

File: Mathlib/Analysis/Calculus/FDeriv/Norm.lean [hunk 3]
```diff
@@ -0,0 +1,200 @@
+/-
+Copyright (c) 2024 Etienne Marion. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Etienne Marion
+-/
+import Mathlib.Analysis.Calculus.Deriv.Abs
+import Mathlib.Analysis.Calculus.Rademacher
+
+/-!
+# Differentiabilty of the norm in a real normed vector space
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Norm.lean:10]:
```suggestion
# Differentiability of the norm in a real normed vector space
```

File: Mathlib/Analysis/Calculus/FDeriv/Norm.lean [hunk 4]
```diff
@@ -0,0 +1,200 @@
...
+
+This file provides basic results about the differentiability of the norm in a real vector space.
+Wee give some links between differentiability as `x` and `t • x`, and also prove
+that if the norm is differentiable at `x` then `fderiv ℝ (‖·‖) x x = ‖x‖` (`fderiv_norm_self`)
+and `‖fderiv ℝ (‖·‖) x‖ = 1` (`norm_fderiv_norm`).
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Norm.lean:16]: Could you expand a little bit this file-level docstring, mentioning notably also `fderiv_norm_smul` and the `ContDiffAt` results? A bullet list would probably be easier to read, by the way.

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!

File: Mathlib/Analysis/Calculus/FDeriv/Norm.lean [hunk 5]
```diff
@@ -0,0 +1,202 @@
...
+at `t • x` when `t ≠ 0`.
+
+## Main statements
+
+* `ContDiffAt.contDiffAt_norm_smul`: If the norm is continuously differentiable up to order `n`
+  at `x`, then so it is at `t • x` when `t ≠ 0`.
+* `differentiableAt_norm_smul`: If `t ≠ 0`, the norm is differentiable at `x` if and only if
+  it is at `t • x`.
+* `HasStrictFDerivAt.hasStrictFDerivAt_norm_smul`: If the norm has a strict Fréchet derivative
+  `f` at `x` and `t ≠ 0`, then it has `(SignType t) • f` as a strict Fréchet derivative at `t · x`.
```
Comment (sgouezel) [inline Mathlib/Analysis/Calculus/FDeriv/Norm.lean:24]:
```suggestion
```
I'd remove this one, because I don't expect it will be as useful as the other ones you mention around here.

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
